US08138177B2
Step 3. 1-(3-amino-3-methylbutyl)-1,3-dihydro-2H-benzimidazol-2-one
A mixture of N-[1,1-dimethyl-3-(2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)propyl]formamide (1.1 g) and hydrogen chloride-methanol (80-90% methanol, 18 mL) was stirred at rt for 50 h. The mixture was concentrated in vacuo and the residue was basified by aq. potassium carbonate and the mixture was extracted with dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated to give 0.81 g (3.7 mmol, 73% for 3 steps) of the title compound.

reactant | N-[1,1-dimethyl-3-(2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)propyl]formamide | 1.1 g | CC(CCN1C(NC2=C1C=CC=C2)=O)(C)NC=O | C13H17N3O2
reactant | hydrogen chloride methanol | 18 mL | Cl.CO
product | 1-(3-amino-3-methylbutyl)-1,3-dihydro-2H-benzimidazol-2-one | NC(CCN1C(NC2=C1C=CC=C2)=O)(C)C | C12H17N3O
